US06831193B2
3-(cyclohexyloxy)benzaldehyde
3-Hydroxybenzaldehyde, purchased from Acros, and cyclohexanol were processed under Mitsunobu conditions, as described in Saccomano, et al., J. Med. Chem. 34, (1991) 291-298, to provide the title compound.

reactant | 3-Hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | 3-(cyclohexyloxy)benzaldehyde | C1(CCCCC1)OC=1C=C(C=O)C=CC1 | C13H16O2
